US08022075B2
Subsequently, a 1:1 mixture (239 mg) of 5-[4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenyl]-1,3-oxazole and 5-[4-(6-bromo-1H-imidazo[4,5-b]pyridin-2-yl)phenyl]-1,3-oxazole was dissolved in N,N-dimethylformamide (4 mL), and potassium carbonate (124 mg) and di-tert-butyl dicarbonate (184 μL) were added to the solution, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, extracted with ethyl acetate, washed sequentially with water and saturated saline, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to flash chromatography. Fractions eluted by n-hexane-ethyl:acetate (1:1) were concentrated under reduced pressure, and the solid was recovered through filtration by use of diethyl ether, followed by drying under reduced pressure, to thereby yield a 1:1 mixture (200 mg) of tert-butyl 6-bromo-2-[4-(1,3-oxazol-5-yl)phenyl]-3H-imidazo[4,5-b]pyridine-3-carboxylate and tert-butyl 6-bromo-2-[4-(1,3-oxazol-5-yl)phenyl]-1H-imidazo[4,5-b]pyridine-1-carboxylate.

reactant | 5-[4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenyl]-1,3-oxazole | 239 mg | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)C2=CN=CO2 | C15H9BrN4O
reactant | 5-[4-(6-bromo-1H-imidazo[4,5-b]pyridin-2-yl)phenyl]-1,3-oxazole | BrC=1C=C2C(=NC1)N=C(N2)C2=CC=C(C=C2)C2=CN=CO2 | C15H9BrN4O
reactant | potassium carbonate | 124 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 184 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | tert-butyl 6-bromo-2-[4-(1,3-oxazol-5-yl)phenyl]-3H-imidazo[4,5-b]pyridine-3-carboxylate | 200 mg | BrC=1C=C2C(=NC1)N(C(=N2)C2=CC=C(C=C2)C2=CN=CO2)C(=O)OC(C)(C)C | C20H17BrN4O3
